US04659651
Then, to a solution comprising of 100 ml of a tetrahydrofuran and 6.6 g (0.1 mole) of malononitrile was added 4.0 g (0.1 mole) of 60 wt% sodium hydride in nujol (paraffin oil) under ice-cooling, and, after adding thereto 17 g (0.1 mole) of 6-chloro-1,3-dimethyluracil, the mixture was stirred for 5 hours at room temperature. The reaction mixture thus obtained was mixed with 100 ml of water, neutralized with concentrated hydrochloric acid, and thereafter extracted with 200 ml of ethyl acetate. The extract was dried by anhydrous sodium sulfate, the solvent was distilled off under reduced pressure, and the crystals thus precipitated were collected by filtration to provide 12.9 g (63%) of 6-dicyanomethyl-1,3-dimethyluracil.

reactant | malononitrile | 0.1 mole, 6.6 g | C(CC#N)#N | C3H2N2
reactant | sodium hydride | [H-].[Na+]
reactant | 6-chloro-1,3-dimethyluracil | 0.1 mole, 17 g | ClC1=CC(N(C(N1C)=O)C)=O | C6H7ClN2O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 6-dicyanomethyl-1,3-dimethyluracil | 12.9 g, 63% | C(#N)C(C1=CC(N(C(N1C)=O)C)=O)C#N | C9H8N4O2
